US06521627B1
(2) Synthesis of 6-(1-chloroethyl)-5-iodo-4-(2-phenylethylamino)pyrimidine (Compound 1-(2))
In 20 ml of toluene were dissolved 2-phenylethylamine (0.6 g) and triethylamine (0.6 g), then, 4-chloro-6-(1-chloro-ethyl)-5-iodopyrimidine (1.5 g) was added to the solution, and the mixture was heated at about 60° C. for 3 hours while stirring.

reactant | 2-phenylethylamine | 0.6 g | C1(=CC=CC=C1)CCN | C8H11N
reactant | triethylamine | 0.6 g | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-6-(1-chloro-ethyl)-5-iodopyrimidine | 1.5 g | ClC1=NC=NC(=C1I)C(C)Cl | C6H5Cl2IN2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 6-(1-chloroethyl)-5-iodo-4-(2-phenylethylamino)pyrimidine | ClC(C)C1=C(C(=NC=N1)NCCC1=CC=CC=C1)I | C14H15ClIN3
